US04987251
The reaction is to be described as surprising, since the adduct mixture of 1,4,6,6,6-pentachloro- 3,3-dimethyl-hexane-2-one and 1,4-dichloro-4-methyl-3-(2,2,2-trichloroethyl)-pentan-2-one obtained from carbon tetrachloride and 1-chloro-3,3-dimethyl-pent-4en-2-one predominantly leads to cis-acids with bases (compare DE-OS (German Published Specification) 3,100,354 Example 4 and 5).

reactant | 1,4,6,6,6-pentachloro- 3,3-dimethyl-hexane-2-one | ClCC(C(C(CC(Cl)(Cl)Cl)Cl)(C)C)=O | C8H11Cl5O
reactant | 1,4-dichloro-4-methyl-3-(2,2,2-trichloroethyl)-pentan-2-one | ClCC(C(C(C)(C)Cl)CC(Cl)(Cl)Cl)=O | C8H11Cl5O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-chloro-3,3-dimethyl-pent-4en-2-one | ClCC(C(C=C)(C)C)=O | C7H11ClO
